US05217978
Using the procedure described in Example 5, (2RS,4SR)-4-(5-bromothien-2-yl)-4-methoxy-2-methyltetrahydropyran was reacted with di-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-yl) disulphide to give (2RS,4SR)-4-methoxy-2-methyl-4-[5-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-2-yl]tetrahydropyran in 72% yield, as an oil.

reactant | (2RS,4SR)-4-(5-bromothien-2-yl)-4-methoxy-2-methyltetrahydropyran | BrC1=CC=C(S1)C1(CC(OCC1)C)OC | C11H15BrO2S
reactant | di-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-yl) disulphide | CN1C(CCC2=CC(=CC=C12)SSC=1C=C2CCC(N(C2=CC1)C)=S)=S | C20H20N2S4
product | (2RS,4SR)-4-methoxy-2-methyl-4-[5-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-2-yl]tetrahydropyran | 72% yield | COC1(CC(OCC1)C)C=1SC(=CC1)SC=1C=C2CCC(N(C2=CC1)C)=S | C21H25NO2S3
